US09328099B2
Propan-2-yl 4-[(4-carbamoyl-1H-pyrazol-3-yl)amino]benzoate
A round-bottomed flask was charged with 2-propanol (595 mL), and nitrogen was bubbled through the 2-propanol for 2 hours. Pd2(dba)3 (1.63 g, 1.78 mmol) and di-tert-butyl(2′,4′,6′-triisopropyl-3,4,5,6-tetramethylbiphenyl-2-yl)phosphine (3.43 g, 7.14 mmol) were added, and the mixture was stirred for 20 minutes. Potassium acetate (17.5 g, 178 mmol), 3-amino-1H-pyrazole-4-carboxamide (15.0 g, 119 mmol), and isopropyl 4-bromobenzoate (34.7 g, 143 mmol) were then added, and the reaction mixture was heated to 75° C. for 6.5 hours. The reaction mixture was then cooled to 23° C., diluted with EtOAc (500 mL), and filtered through celite. The filtrate was adsorbed onto silica gel in vacuo and purified by MPLC on silica gel (using a gradient elution of 30-90%, EtOAc/hexanes) to afford the title compound.

reactant | di-tert-butyl(2′,4′,6′-triisopropyl-3,4,5,6-tetramethylbiphenyl-2-yl)phosphine | 7.14 mmol, 3.43 g | C(C)(C)(C)P(C1=C(C(=C(C(=C1C)C)C)C)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C(C)(C)C | C33H53P
reactant | Potassium acetate | 178 mmol, 17.5 g | C(C)(=O)[O-].[K+]
reactant | 3-amino-1H-pyrazole-4-carboxamide | 119 mmol, 15.0 g | NC1=NNC=C1C(=O)N | C4H6N4O
reactant | isopropyl 4-bromobenzoate | 143 mmol, 34.7 g | BrC1=CC=C(C(=O)OC(C)C)C=C1 | C10H11BrO2
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 1.78 mmol, 1.63 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | 2-propanol | 595 mL | CC(C)O | C3H8O
product | Propan-2-yl 4-[(4-carbamoyl-1H-pyrazol-3-yl)amino]benzoate | C(N)(=O)C=1C(=NNC1)NC1=CC=C(C(=O)OC(C)C)C=C1 | C14H16N4O3
